US07312330B2
7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethoxy)-phenyl)pyrido[3,4-d]pyrimidin-4-amine
In a 5 ml microwave vial was combined 4-chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.113 g, 0.000356 mol), 4-(trifluoromethoxy)aniline (0.0964 mL, 0.000711 mol), acetonitrile (2 mL, 0.04 mol), and sodium iodide (0.00533 g, 0.0000356 mol). The mixture was heated at at 150° C. for 10 minutes and reduced in vacuo. The remaining solid was taken up in ethyl acetate (10 mL) and washed with saturated sodium bicarbonate (2×10 mL) and water (1×10 mL). The organic layer was dried over magnesium sulfate and reduced in vacuo to yield an off white solid. The mixture was purified by flash chromatography using an ethyl acetate:hexanes (0-50%) gradient to yield the desired product as an off white solid (0.105 g).

reactant | 4-chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.000356 mol, 0.113 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2C(F)(F)F | C13H10ClF3N4
reactant | 4-(trifluoromethoxy)aniline | 0.000711 mol, 0.0964 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | acetonitrile | 0.04 mol, 2 mL | C(C)#N | C2H3N
reactant | sodium iodide | 0.0000356 mol, 0.00533 g | [I-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethoxy)-phenyl)pyrido[3,4-d]pyrimidin-4-amine | FC(C=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H15F6N5O
